US05453514
A solution of 0.17 g of cyanamide in 0.3 ml of water was added to a solution of 0.46 g of 4-(3-chloropropyl)-3,5-dimethyl-1H-pyrazole hydrochloride in 5 ml of ethanol, and the reaction mixture was stirred for one day at 80° C. the solvent was removed by distillation under reduced pressure, and the resulting residue was recrystallized from isopropanol-diisopropylether to obtain 0.13 g of 4-(3-chloropropyl)-3,5-dimethyl-1H-pyrazole-1-carboxamidine hydrochloride.

reactant | cyanamide | 0.17 g | N#CN | CH2N2
reactant | 4-(3-chloropropyl)-3,5-dimethyl-1H-pyrazole hydrochloride | 0.46 g | Cl.ClCCCC=1C(=NNC1C)C
solvent | water | 0.3 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(3-chloropropyl)-3,5-dimethyl-1H-pyrazole-1-carboxamidine hydrochloride | 0.13 g | Cl.ClCCCC=1C(=NN(C1C)C(=N)N)C | InChI=1S/C9H15ClN4.ClH/c1-6-8(4-3-5-10)7(2)14(13-6)9(11)12;/h3-5H2,1-2H3,(H3,11,12);1H
